US07625908B2
N-{(2R)-2-[(4-{[3-Chloro-4-(pyrazin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N-methylacetamide
The procedure described in Example 4.1 was repeated using N-[(2R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)propyl]-N-methylacetamide and pyrazin-2-ylmethyl methanesulfonate to give the title compound in 61% yield; NMR spectrum (DMSO-d6) 1.3 (d, 3H), 1.95 (s, 3H), 3.03 (s, 3H), 3.37 (1H obscured by H2O), 4.21 (dd, 1H), 5.08 (m, 1H), 5.37 (s, 2H), 7.29 (m, 3H), 7.70 (m, 2H), 8.11 (d, 1H), 8.46 (s, 1H), 8.66 (m, 2H), 8.85 (s, 1H), 9.94 (s, 1H); Mass Spectrum MH+ 493.

reactant | N-[(2R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)propyl]-N-methylacetamide | ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CN(C(C)=O)C)C | C20H21ClN4O3
reactant | pyrazin-2-ylmethyl methanesulfonate | CS(=O)(=O)OCC1=NC=CN=C1 | C6H8N2O3S
product | N-{(2R)-2-[(4-{[3-Chloro-4-(pyrazin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N-methylacetamide | 61% yield | ClC=1C=C(C=CC1OCC1=NC=CN=C1)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CN(C(C)=O)C)C | C25H25ClN6O3
